US06369086B1
Example 15: 4-(N′-{4-[2-(4-Hydroxyphenyl)-vinyl]-2-oxo-1,2-dihydro-indol-3-ylidene}-hydrazino)-benzenesulfonamide (Z isomer)
A mixture of 1.0 g (3.6 mmol) of 4-iodo-1H-indole-2,3-dione (Snow, et al., Journal of the American Chemical Society 1977, 99, 3734-44), 0.42 g (4.2 mmol) of TEA, 0.06 g (0.27 mmol) of palladium(II) acetate, 0.16 g (0.54 mmol) of tri-o-tolylphosphine and 5.0 g (4.2 mmol) of a 10% solution of 4-vinylphenol in propylene glycol was suspended in 15 mL of dry acetonitrile in a pyrex sealed tube and heated to 100° C. for 4 h. The mixture was cooled to rt, quenched with 50 mL of 10% hydrochloric acid and extracted with two 100 mL-portions of EtOAc. The combined extracts were dried over MgSO4 and concentrated to give a brown solid, which was subjected to chromatography on silica gel, eluting with hexane:EtOAc (3:1), to yield 0.125 g (13%) of trans-4-[2-(4-hydroxyphenyl)-vinyl]-1H-indole-2,3-dione as a red solid: 1H NMR (DMSO-d6): δ6.6-7.6 (m, 8H), 7.77 (d, J=16.4 Hz, 1H), 9.85 (bs, 1H), 11.00 (bs, 1H); APCI−MS m/z 264 (M−1)−. Condensation of trans-4-[2-(4-hydroxyphenyl)-vinyl]-1H-indole-2,3-dione and 4-sulfonamidophenylhydrazine hydrochloride according to Procedure G gave the title compound in 27% yield as an orange solid: 1H NMR (DMSO-d6): δ6.78 (d, J=7.8 Hz, 1H), 6.88 (d, J=8.7 Hz, 2H), 7.26 (t, J=7.8 Hz, 1H), 7.29 (s, 2H), 7.36 (d, J=16.5 Hz, 1H), 7.47 (d, J=7.8 Hz, 1H), 7.53 (d, J=8.7 Hz, 2H), 7.57 (d, J=8.7 Hz, 2H), ), 7.81 (d, J=8.7 Hz, 2H), 8.03 (d, J=16.5 Hz, 1H), 9.78 (s, 1H), 11.17 (s, 1H), 13.02 (s, 1H); APCI−MS m/z433 (M−1)−.

reactant | trans-4-[2-(4-hydroxyphenyl)-vinyl]-1H-indole-2,3-dione | OC1=CC=C(C=C1)/C=C/C1=C2C(C(NC2=CC=C1)=O)=O | C16H11NO3
reactant | 4-sulfonamidophenylhydrazine hydrochloride | C1=CC(=CC=C1NN)S(=O)(=O)N.Cl
product | 4-(N′-{4-[2-(4-Hydroxyphenyl)-vinyl]-2-oxo-1,2-dihydro-indol-3-ylidene}-hydrazino)-benzenesulfonamide | 27% yield | OC1=CC=C(C=C1)C=CC1=C2C(C(NC2=CC=C1)=O)=NNC1=CC=C(C=C1)S(=O)(=O)N | C22H18N4O4S
